US08802697B2
Synthesis of 2-chloro-6-(3,5-dimethoxyphenyl)-8-fluoroquinazoline
A mixture of 6-bromo-2-chloro-8-fluoroquinazoline (4.0 g, 15.4 mmol), 3,5-dimethoxyphenylboronic acid (4.47 g, 16.9 mmol), cesium carbonate (10.0 g, 30.8 mmol) and Pd(PPh3)2Cl2 (236 mg, 0.77 mmol) in THF (200 mL) and water (10 mL) was degassed with nitrogen three times, and stirred at 80° C. for 3 h. Both TLC and LCMS showed the reaction was completed. The reaction mixture was cooled to RT and directly concentrated. The residue was purified by silica gel chromatography (petroleum ether:dichloromethane=2:1 to 1:1) to afford the title compound (2.5 g, 51%) as a yellow solid. MS (ES+) C16H12ClFN2O2 requires: 318/320. found: 319/321 [M+H]+.

reactant | 6-bromo-2-chloro-8-fluoroquinazoline | 15.4 mmol, 4.0 g | BrC=1C=C2C=NC(=NC2=C(C1)F)Cl | C8H3BrClFN2
reactant | 3,5-dimethoxyphenylboronic acid | 16.9 mmol, 4.47 g | COC=1C=C(C=C(C1)OC)B(O)O | C8H11BO4
reactant | cesium carbonate | 30.8 mmol, 10.0 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | water | 10 mL | O | H2O
catalyst | Pd(PPh3)2Cl2 | 0.77 mmol, 236 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-chloro-6-(3,5-dimethoxyphenyl)-8-fluoroquinazoline | 2.5 g, 51% | ClC1=NC2=C(C=C(C=C2C=N1)C1=CC(=CC(=C1)OC)OC)F | C16H12ClFN2O2
